US05196431
Chloroacetone (0.17 g, 1.9 mmol) is added to a solution of N-[4,6 bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]thiourea in 25 mL of ethanol. The reaction mixture is warmed to reflux for 18 hours. The solution is poured into 100 mL of water and the pH is adjusted to 4 with saturated NaHCO3. The resulting precipitate is collected by filtration. Recrystallization from hexane gives 0.26 g (45%) of 4,6-bis(1,1-dimethylethyl)-2-[(4-methyl-2-thiazolyl)amino]-5-pyrimidinol; mp 171°-173° C.

reactant | Chloroacetone | 1.9 mmol, 0.17 g | ClCC(C)=O | C3H5ClO
reactant | N-[4,6 bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]thiourea | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)NC(=S)N | C13H22N4OS
reactant | water | 100 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4,6-bis(1,1-dimethylethyl)-2-[(4-methyl-2-thiazolyl)amino]-5-pyrimidinol | 0.26 g, 45% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)NC=1SC=C(N1)C | C16H24N4OS
